US05506256
A) (2S)-1-(t-Butoxycarbonyl)-2-[1-hydroxy-2-(isopropylthio)-ethyl]pyrrolidine
Isopropylmercaptan (0.93 ml) and triethylamine (1.39 ml) were added to (2S)-1-(t-butoxycarbonyl)-2-(1,2-epoxyethyl)-pyrrolidine (2.11 g) as obtained in Example 1-A) in methanol (100 ml), and the mixture was stirred for 2 hours under reflux. The reaction mixture was concentrated and the residue was purified by silica gel column chromatography (eluate: hexane-ethyl acetate) to give 1.66 g of the title compound.

reactant | Isopropylmercaptan | 0.93 ml | C(C)(C)S | C3H8S
reactant | triethylamine | 1.39 ml | C(C)N(CC)CC | C6H15N
reactant | (2S)-1-(t-butoxycarbonyl)-2-(1,2-epoxyethyl)-pyrrolidine | 2.11 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1CO1 | C11H19NO3
solvent | methanol | 100 ml | CO | CH4O
product | (2S)-1-(t-Butoxycarbonyl)-2-[1-hydroxy-2-(isopropylthio)-ethyl]pyrrolidine | 1.66 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(CSC(C)C)O | C14H27NO3S
